US05278134
Preparation of 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methyl-3 -(N-methyl-N-phenyl amino oxo acetyl)pyridine
To a stirred solution of 2.5 g(0.011 mole) of 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2 -yl)-5-methyl pyridine in 100ml of anhydrous tetrahydrofuran cooled to -70° C. under the presence of nitrogen was added dropwise a 9.68 ml of 2.5 molar n-butyllithium, thus maintaining temperature below -65° C. The solution was stirred at -70° C. for 3 hr and a solution 1.96 g of N-methyl-N-phenyl oxamic acid methyl ester(3.4 g, 0.016 mole) in 10 ml of anhydrous tetrahydrofuran was added dropwise while maintaining temperature below -65° C. After stirring another hour at -70° C., the solution was poured into water and extracted with methylene chloride. The combined organic phases were dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give crude product. The crude product was purified by column chromatography to produce 1.76 g of pale yellow solid(m.p.=153°~156° C.).

reactant | 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2 -yl)-5-methyl pyridine | 0.011 mole, 2.5 g | C(C)(C)C1(C(N=C(N1)C1=NC=C(C=C1)C)=O)C | C13H17N3O
reactant | n-butyllithium | 2.5 molar, 9.68 ml | C(CCC)[Li]
reactant | N-methyl-N-phenyl oxamic acid methyl ester | 0.016 mole, 1.96 g | COC(C(=O)N(C1=CC=CC=C1)C)=O | C10H11NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 100ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methyl-3 -(N-methyl-N-phenyl amino oxo acetyl)pyridine | 1.76 g | C(C)(C)C1(N=C(NC1=O)C1=NC=C(C=C1C(C(=O)N(C1=CC=CC=C1)C)=O)C)C | C22H24N4O3
